US08258130B2
A solution of 6-methanesulfonyl-1H-indole (2.66 mmol) and potassium tert-butoxide (5.32 mmol) in DMF (15 mL) is stirred at rt under N2 for 2 h. 0.15 M NH2Cl in ether (26.6 mL) is added drop-wise for 15 minutes at rt and the reaction mixture is stirred at rt for 2 h. The reaction mixture is quenched with 10% Na2S2O3 aqueous solution, and extracted with ether (3×20 mL). The combined organic layer is washed with brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with EtOAc to give 6-methanesulfonyl-indole-1-ylamine (270 mg, 51%) as a solid. MS: 211 (M+H); 1H NMR (300 MHz, CDCl3): δ 3.09 (s, 3H), 6.49 (d, H), 7.41 (m, H), 7.61 (d, H), 7.71 (d, H), 8.12 (s, H).

reactant | 6-methanesulfonyl-1H-indole | 2.66 mmol | CS(=O)(=O)C1=CC=C2C=CNC2=C1 | C9H9NO2S
reactant | potassium tert-butoxide | 5.32 mmol | CC(C)([O-])C.[K+]
reactant | NH2Cl | 0.15 M | NCl | ClH2N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ether | 26.6 mL | CCOCC | C4H10O
product | 6-methanesulfonyl-indole-1-ylamine | 270 mg, 51% | CS(=O)(=O)C1=CC=C2C=CN(C2=C1)N | C9H10N2O2S
